US09085555B2
D. (2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine
To a solution of (2S,4R)-2-azidomethyl-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester (600 mg, 2.45 mmol) in CH2Cl2 (2.5 mL) was added TFA (1.88 mL, 24.6 mmol) and the solution was stirred at RT for 2 h. CH2Cl2 was concentrated and the crude was dried under high vacuum to give the desired material which was used without further purification in the next step.

reactant | (2S,4R)-2-azidomethyl-4-fluoro-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.45 mmol, 600 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)CN=[N+]=[N-] | C10H17FN4O2
reactant | TFA | 24.6 mmol, 1.88 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-2-Azidomethyl-4-fluoro-pyrrolidine | N(=[N+]=[N-])C[C@H]1NC[C@@H](C1)F | C5H9FN4
